US06462198B1
Diphenylacetyl-carbamic acid 2-cyano-ethyl ester
The title compound, white solid, m.p. 113° C. and MS: m/e=308.3 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 3-hydroxy-propionitrile.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 3-hydroxy-propionitrile | OCCC#N | C3H5NO
product | Diphenylacetyl-carbamic acid 2-cyano-ethyl ester | C(#N)CCOC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C18H16N2O3
